US09382356B2
(i) Synthesis of 2,7-dimethyl-3,6-di-t-butyl-fluorene
Under a nitrogen stream, a 300-ml three-necked flask was charged with 5.03 g (11.5 mmol) of 2,7-dibromo-3,6-di-t-butyl-fluorene synthesized by the procedure of Synthesis Example 2-4(i) and 0.196 g (0.24 mmol) of PdCl2(dppf).CH2Cl2, and further charged with 100 mL of dehydrated t-butylmethylether. The mixture was stirred at room temperature for 20 minutes. This solution was cooled in an ice bath, and 19.2 mL (57.6 mmol) of a 3.0 mol/L ether solution of methylmagnesium bromide was added dropwise over 15 minutes. Subsequently, a slurry solution obtained by heating to reflux for 5 days was left to be naturally cooled, and then quenched with cold 1 N hydrochloric acid in an ice bath. Subsequently, ether was added to extract the soluble fraction, and this organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, water and saturated brine, and then dried over magnesium sulfate. Magnesium sulfate was separated by filtration, and the filtrate was subjected to distillation under reduced pressure using a rotary evaporator to remove the solvent. The residue was purified by column chromatography to obtain a target product (yield 2.07 g (63%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | 2,7-dibromo-3,6-di-t-butyl-fluorene | 11.5 mmol, 5.03 g | BrC1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)Br | C21H24Br2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | t-butylmethylether | 100 mL | C(C)(C)(C)OC | C5H12O
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ether | 3.0 mol/L | CCOCC | C4H10O
catalyst | PdCl2(dppf) | 0.24 mmol, 0.196 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,7-dimethyl-3,6-di-t-butyl-fluorene | CC1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)C | C23H30
